US04420487
Preparation of 5-Chloro-2-(2-Methylphenylethyl)-6-Sulfamyl-1H-Benzimidazole
To 11.5 g of 3-(2-methylphenyl)propionitrile in 50 ml of 6 N hydrochloric acid was added 11.8 g of 2-amino-4-chloro-5 sulfamylaniline and the suspension refluxed for 12 hours. The precipitate was collected by filtration and added with stirring to 200 ml of concentrated ammonium hydroxide. The free base was then collected and added to methanol; the methanol was brought to a boil, charcoal added, and the suspension filtered. Concentration in vacuo provided a semi-solid which upon treatment with acetonitrile gave a red solution and a precipitate (ammonium chloride). Concentration of the red solution in vacuo provided a solid which upon recrystallization from acetonitrile yielded off-white crystals, m.p. 205°-208°.

reactant | 3-(2-methylphenyl)propionitrile | 11.5 g | CC1=C(C=CC=C1)CCC#N | C10H11N
reactant | 2-amino-4-chloro-5 sulfamylaniline | 11.8 g | NC1=C(N)C=C(C(=C1)Cl)S(N)(=O)=O | C6H8ClN3O2S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | hydrochloric acid | 6 N, 50 ml | Cl | ClH
product | 5-Chloro-2-(2-Methylphenylethyl)-6-Sulfamyl-1H-Benzimidazole | ClC1=CC2=C(NC(=N2)CCC2=C(C=CC=C2)C)C=C1S(N)(=O)=O | C16H16ClN3O2S
